US04589911
6.0 g of 6-bromo-2,2-dioxo-1,2-benzoxathiine and 22.0 g of chlorosulfonic acid are heated for 1 hour to 60° C. The mixture is then poured into ice-water. The precipitated 6-bromo-8-chlorosulfonyl-2,2-dioxo-1,2-benzoxathiine is isolated, washed with water and dried.

reactant | 6-bromo-2,2-dioxo-1,2-benzoxathiine | 6.0 g | BrC=1C=CC2=C(C=CS(O2)(=O)=O)C1 | C8H5BrO3S
reactant | chlorosulfonic acid | 22.0 g | ClS(=O)(=O)O | ClHO3S
product | 6-bromo-8-chlorosulfonyl-2,2-dioxo-1,2-benzoxathiine | BrC=1C=C(C2=C(C=CS(O2)(=O)=O)C1)S(=O)(=O)Cl | C8H4BrClO5S2
